US06339093B1
4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinoline hydrochloride
The title compound, m.p. 200° C., and MS: m/e=260 (M+), was prepared from 4-chloro-quinoline and 1,2,3,4-tetrahydroisoquinoline

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinoline hydrochloride | Cl.C1N(CCC2=CC=CC=C12)C1=CC=NC2=CC=CC=C12 | InChI=1S/C18H16N2.ClH/c1-2-6-15-13-20(12-10-14(15)5-1)18-9-11-19-17-8-4-3-7-16(17)18;/h1-9,11H,10,12-13H2;1H
